US04528294
[2-(4-methyl-1-piperidinyl)-5-nitrophenyl]-(4-chlorophenyl)-methanone (Example 1; Code No.: 399)
A mixture of 0.07 mole (20.7 g) of 2,4'-dichloro-5-nitrobenzophenone, of 0.1 mole (11.4 ml) of 4-methyl-piperidine and of 10 g of K2CO3 in 100 ml of anhydrous ethanol is heated to reflux for 3 hours. After cooling of the reaction medium, the precipitate obtained is filtered, washed with water, dried then recrystallized from ethanol. 18 g (yield=71.7%) of the expected product are thus obtained. M.p.=136° C.

reactant | 2,4'-dichloro-5-nitrobenzophenone | 0.07 mole, 20.7 g | ClC1=C(C(=O)C2=CC=C(C=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C13H7Cl2NO3
reactant | 4-methyl-piperidine | 0.1 mole, 11.4 ml | CC1CCNCC1 | C6H13N
reactant | K2CO3 | 10 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | [2-(4-methyl-1-piperidinyl)-5-nitrophenyl]-(4-chlorophenyl)-methanone | 18 g, yield=71.7% | CC1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)C1=CC=C(C=C1)Cl | C19H19ClN2O3
